US08372864B2
540 mg of methyl[2-(2-bromo-4-fluorophenyl)ethyl](1-propylbutyl)carbamate are dissolved under an inert atmosphere in 40 cm3 of dichloromethane at a temperature close to 20° C. 529 mg of 4-dimethylaminopyridine are added to the reaction mixture. The latter is cooled to a temperature in the vicinity of 0° C. 1.91 cm3 of trifluoromethanesulfonic anhydride in solution in 15 cm3 of anhydrous dichloromethane are poured into the reaction mixture over 30 min. The suspension is kept stirring for 15 h at a temperature close to 20° C. 20 cm3 of a saturated aqueous solution of sodium hydrogen carbonate are added to the reaction medium. This stirring is continued for 30 min, then 20 cm3 of dichloromethane are added to the mixture. The organic phase is decanted then washed successively with 100 cm3 of a 0.1M aqueous solution of hydrochloric acid and 20 cm3 of a saturated aqueous solution of sodium hydrogen carbonate. Next, the organic phase is dried then concentrated using a rotary evaporator under reduced pressure (5 kPa). The residual brown oil is then taken up in ethyl acetate and purified by filtration through silica (silica 60—particle size 15-40 μm). The organic phase is concentrated under reduced pressure (5 kPa). 477 mg of 5-bromo-7-fluoro-2-(1-propylbutyl)-3,4-dihydroisoquinoline-1(2H)-one are obtained in the form of a dark orange oil.

reactant | methyl[2-(2-bromo-4-fluorophenyl)ethyl](1-propylbutyl)carbamate | 540 mg | COC(N(C(CCC)CCC)CCC1=C(C=C(C=C1)F)Br)=O | C17H25BrFNO2
reactant | trifluoromethanesulfonic anhydride | 1.91 cm3 | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 40 cm3 | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 529 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 15 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
product | 5-bromo-7-fluoro-2-(1-propylbutyl)-3,4-dihydroisoquinoline-1(2H)-one | 477 mg | BrC1=C2CCN(C(C2=CC(=C1)F)=O)C(CCC)CCC | C16H21BrFNO
